US08497281B2
(1H-Benzoimidazol-5-yl)-[cis-8-(pyrrolidine-1-carbonyl)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone
The title compound is prepared from cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid and pyrrolidine following a procedure analogous to that described in Example 1. Yield: 57% of theory; LC (method 1): tR=2.27 min; Mass spectrum (ESI+): m/z=429 [M+H]+.

reactant | cis-4-(1H-benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C(=O)O | C22H21N3O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (1H-Benzoimidazol-5-yl)-[cis-8-(pyrrolidine-1-carbonyl)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone | Yield: 57% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)C(=O)N3CCCC3 | C26H28N4O2
